US07569536B2
Concentrated hydrochloric acid (1.27 ml, 15.2 mmol) and anhydrous tin dichloride (1.43 g, 7.54 mmol) were sequentially added at 0° C. to a methanol (5 ml) solution of hexahydro-1-[2-nitro-4-(trifluoromethyl)phenyl]-1H-azepine (675 mg, 2.34 mmol), obtained as described in Referential Example 4-1. The resulting mixture was stirred for two hours. A saturated solution of sodium hydrogen carbonate was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=20/1). Thus, 1-[2-amino-4-(trifluoromethyl)phenyl]-hexahydro-1H-azepine (522 mg, 86.3%) was yielded as a colorless solid.

reactant | hydrochloric acid | 15.2 mmol, 1.27 ml | Cl | ClH
reactant | tin dichloride | 7.54 mmol, 1.43 g | [Sn](Cl)Cl
reactant | hexahydro-1-[2-nitro-4-(trifluoromethyl)phenyl]-1H-azepine | 2.34 mmol, 675 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCCCCC1 | C13H15F3N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-[2-amino-4-(trifluoromethyl)phenyl]-hexahydro-1H-azepine | 522 mg, 86.3% | NC1=C(C=CC(=C1)C(F)(F)F)N1CCCCCC1 | C13H17F3N2
